US05041673
(±)-2-Amino-1,2-dihydro-3(4H)-phenanthrenone, hydrochloride
2-Amino-4-chloro-l,2,3,4-tetrahydro-3-phenanthrenol, hydrochloride (265 mg) was refluxed in trifluoroacetic acid (25 ml) for 3 hours. The green mixture was evaporated in vacuo, taken up into methanol and treated with activated charcoal for 2 hours at room temperature. Filtration and evaporation yielded a yellow oil which was diluted with methanol and acidified with a solution of hydrochloric acid in diethyl ether. The mixture was evaporated and the acidification process was repeated. Evaporation gave a residue which was recrystallized in a methanol/diethyl ether mixture to afford the title compound (122 mg) as a cream colored powder.

reactant | 2-Amino-4-chloro-l,2,3,4-tetrahydro-3-phenanthrenol, hydrochloride | 265 mg | Cl.NC1CC=2C=CC3=CC=CC=C3C2C(C1O)Cl
reactant | hydrochloric acid | Cl | ClH
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±)-2-Amino-1,2-dihydro-3(4H)-phenanthrenone, hydrochloride | 122 mg | Cl.NC1CC=2C=CC3=CC=CC=C3C2CC1=O | InChI=1S/C14H13NO.ClH/c15-13-7-10-6-5-9-3-1-2-4-11(9)12(10)8-14(13)16;/h1-6,13H,7-8,15H2;1H
